US06657093B2
A mixture of 126.5 g (1 mol) of p-chlorotoluene and 45.1 g (1.1 mol) of acetonitrile (freshly distilled) is added dropwise to a suspension of 13.8 g (2.0 mol) of lithium granules in 350 ml of THF at −50° C. over the course of 2 hours. After a conversion determined by GC (the dark color of the reaction mixture prevents quantification of lithium consumption) of >98% (overall 7.5 h), the reaction mixture is added to 200 g of water, the pH adjusted to 2.0 using 37% HCl and the reaction mixture boiled for two hours under reflux. The organic phase is then separated off and the aqueous phase extracted once more with 100 ml of petroleum ether. The united organic phases are distilled. 132.7 g (0.99 mol) of 4-methylacetophenone (99%, boiling point 88° C./8 Torr) are obtained as a colorless liquid, GC purity >98% a/a, which when left to stand at RT gradually solidifies.

reactant | p-chlorotoluene | 1 mol, 126.5 g | ClC1=CC=C(C=C1)C | C7H7Cl
reactant | acetonitrile | 1.1 mol, 45.1 g | C(C)#N | C2H3N
reactant | lithium | 2.0 mol, 13.8 g | [Li] | Li
reactant | THF | 350 ml | C1CCOC1 | C4H8O
product | 4-methylacetophenone | 0.99 mol, 132.7 g, 99% | CC1=CC=C(C=C1)C(=O)C | C9H10O
